US04886794
4-[bis(4-Chlorophenyl)hydroxymethyl]-N,N-diethyl-1-piperidinecarboxamide
A Grignard solution was prepared by the treatment of a slurry of 8.5 g (0.35 mole) of mangesium chips in 200 ml of dry tetrahydrofuran (THF) with a solution of 72.8 g (0.38 mole) of 1-bromo-3-chlorobenzene in 400 ml of THF. After the addition was complete, the mixture was heated at reflux for 15 min to complete formation. To the Grignard solution at ambient temperature was added a solution of 38.4 g (0.15 mole) of 1-[(diethylamino)carbonyl]-4-piperidine carboxylic acid ethyl ester in 200 ml of THF in a stream. The solution was stirred at ambient temperature overnight and poured into 2.5 liters of a saturated ammonium chloride solution. The layers were separated and the aqueous layer was extracted once with 500 ml of methylene chloride and once with 250 ml of methylene chloride. The combined organic layers were filtered through Celite® and the filtrate was washed successively with 500 ml of water, 750 ml of a 4% sodium hydroxide solution, 250 ml of water and 250 ml of brine. The solution was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a gum which crystallized. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration, and dried to yield 56.7 g (87,) of a white solid. An analytical sample, m.p. 172°-175° C. was prepared from 2-propanol.

reactant | 1-bromo-3-chlorobenzene | 0.38 mole, 72.8 g | BrC1=CC(=CC=C1)Cl | C6H4BrCl
reactant | 1-[(diethylamino)carbonyl]-4-piperidine carboxylic acid ethyl ester | 0.15 mole, 38.4 g | C(C)OC(=O)C1CCN(CC1)C(=O)N(CC)CC | C13H24N2O3
reactant | ammonium chloride | 2.5 liters | [Cl-].[NH4+]
reactant | 2-propanol | CC(C)O | C3H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | THF | 400 ml | O1CCCC1 | C4H8O
reactant | THF | 200 ml | O1CCCC1 | C4H8O
product | 4-[bis(4-Chlorophenyl)hydroxymethyl]-N,N-diethyl-1-piperidinecarboxamide | ClC1=CC=C(C=C1)C(C1CCN(CC1)C(=O)N(CC)CC)(O)C1=CC=C(C=C1)Cl | C23H28Cl2N2O2
